US09211249B2
Tyrosine isopropyl ester.
HCl (70 g) and tyrosine (7 g) were dissolved in water (1 L). Caffeine (50 g) was added into the mixture and the mixture was stirred for a few minutes. The mixture was filled into either spray bottles or roll-on bottles.

reactant | HCl | 70 g | Cl | ClH
reactant | tyrosine | 7 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Caffeine | 50 g | N1(C)C(=O)N(C)C=2N=CN(C)C2C1=O | C8H10N4O2
solvent | water | 1 L | O | H2O
product | Tyrosine isopropyl ester | C(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C12H17NO3
